US05173493
Acetic anhydride (5 ml) was added to a solution of 8,9-dihydro-7-[(hydroxy) (5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10-methylpyrido[1,2-a]indol-6(7H)-one (4 g, a mixture of the isomers A and B) in pyridine (50 ml). After being stirred at room temperature for 20 hours, the solution was evaporated in vacuo. Silica gel column chromatography (1% methanol-methylene chloride) of the oil obtained gave 7-[(acetoxy) (5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-8,9-dihydro-10-methylpyrido[1,2-a]indol-6(7H)-one (4.30 g) as an amorphous powder.

reactant | Acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 8,9-dihydro-7-[(hydroxy) (5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10-methylpyrido[1,2-a]indol-6(7H)-one | OC(C1CCC=2N(C3=CC=CC=C3C2C)C1=O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H33N3O2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 7-[(acetoxy) (5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-8,9-dihydro-10-methylpyrido[1,2-a]indol-6(7H)-one | 4.30 g | C(C)(=O)OC(C1CCC=2N(C3=CC=CC=C3C2C)C1=O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H35N3O3
